US04581452
A mixture of α-trifluoromethylacrylic acid (700 mg; 5.0 mmoles) and urea (318 mg; 5.3 mmoles) in DMF (5 ml) was heated at 90° C. with stirring for 5 hours. After cooling to 0° C., a solution of DCC (1.09 g; 5.3 mmoles) in DMF (3 ml) was added dropwise. The mixture was stirred for 1 hour, and the precipitated solid was filtered off and washed with ethyl acetate. The solvents were evaporated under reduced pressure from the combined filtrates. The residue was purified by a column chromatography on silica gel (ethyl acetate) to give 382 mg (yield: 42%) of 5-trifluoromethyl-5,6-dihydrouracil. m.p.: 203°-205° C. (dec.) [value reported in the literature 203°-205° C. (dec.)].

reactant | α-trifluoromethylacrylic acid | 5.0 mmoles, 700 mg | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | urea | 5.3 mmoles, 318 mg | NC(=O)N | CH4N2O
reactant | DCC | 5.3 mmoles, 1.09 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-trifluoromethyl-5,6-dihydrouracil | 382 mg, yield: 42% | FC(C1C(NC(NC1)=O)=O)(F)F | C5H5F3N2O2
